data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2817,3132,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][NH:25][C:26](=[O:27])[C-:28]([N+:29]#[C:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[C:37](=[O:38])[NH:39][CH3:40]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([NH:25][CH3:24])=[O:27])([C:37](=[O:38])[NH:39][CH3:40])[N:29]=[C:30]2[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,24.876564207161763,-33.752597868305
4867,5550,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[CH:19]=[N+:20]([CH3:21])[C-:22]([C:23]#[N:24])[C:25]#[N:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:22]([C:23]#[N:24])([C:25]#[N:26])[N:20]([CH3:21])[CH:19]2[C:17]([O:16][CH3:15])=[O:18],water,298.15,22.23930330759609,-5.92061138708705
5090,5778,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24](=[O:25])[O:26][CH3:27])[o+:28]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]1([C:24](=[O:25])[O:26][CH3:27])[C:21](=[O:22])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[O:28]1,water,298.15,17.730772141998198,1.0313411175003944
2219,2460,[CH3:16][N+:17](=[CH:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N-:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]([Cl:6])=[C:7]([C:8](=[O:9])[NH:10][CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]([C:8](=[O:9])[NH:10][CH3:11])([C:12](=[O:13])[NH:14][CH3:15])[N:25]([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[N:17]([CH3:16])[CH:18]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,21.808444446894427,-6.576032852107152
256,280,[CH3:13][NH:14][C:15](=[O:16])[CH:17]=[NH+:18][NH-:19].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[NH:19][NH:18][CH:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,25.420264757451285,-12.401066213567654
4800,5479,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:18]([C:19]([CH3:20])=[O:21])([C:22](=[O:23])[O:24][CH3:25])[N:16]([CH3:17])[CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,37.214108709876655,-7.933208368043487
5002,5690,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[N-:19][N+:20]([CH3:21])=[C:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:19]([C:17]([NH:16][CH3:15])=[O:18])[N:20]([CH3:21])[C:22]2([C:23]#[N:24])[C:25]([CH3:26])=[O:27],water,298.15,25.363495413946485,-5.688087788239895
1348,1478,[CH3:13][O:14][C:15](=[O:16])[N-:17][O+:18]=[N:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[N:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[O:18][N:17]3[C:15]([O:14][CH3:13])=[O:16],water,298.15,10.286794796760582,-55.8721271592698
4582,5227,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[NH:16][C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,21.504737159467734,-25.58548768731129
3844,4400,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20].[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH2:11][N:12]([CH3:13])[C:14]2([C:15]([CH3:16])=[O:17])[C:18]([CH3:19])=[O:20],water,298.15,16.861484248545064,-4.698497403341032
4020,4605,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[O+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]#[N:13])[O:14][C:15]1([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21],water,298.15,14.233865388725786,-32.47597005884207
